US07786115B2
To a suspension of 2-(carboxymethyl)-5-bromobenzoic acid (2.37 g) in acetone (20 ml) was added acetyl chloride (2.60 ml) and the reaction mixture was stirred at room temperature for 18 hours. The solvent was evaporated and azeotroped with toluene (×3). The resultant solid was triturated with diethyl ether to yield 7-bromo-1H-isochromene-1,3(4H)-dione as a brown solid (2.20 g); NMR Spectrum: (DMSOd6) 4.24 (s, 2H), 7.42 (d, 1H), 7.94 (d, 1H), 8.13 (s, 1H).

reactant | 2-(carboxymethyl)-5-bromobenzoic acid | 2.37 g | C(=O)(O)CC1=C(C(=O)O)C=C(C=C1)Br | C9H7BrO4
reactant | acetyl chloride | 2.60 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 7-bromo-1H-isochromene-1,3(4H)-dione | 2.20 g | BrC1=CC=C2CC(OC(C2=C1)=O)=O | C9H5BrO3
